US08466289B2
Synthesis of the Title Compound; 3-(1,3-dihydroxypropan-2-yl)-N-(7-(2-fluoro-4-iodophenylamino)-6-methyl-5-oxo-3,5-dihydro-2H-oxazolo[3,2-a]pyridin-8-yl)cyclobutane-1-sulfonamide (15A)
3-(1,3-Bis(benzyloxy)propan-2-yl)-N-(7-(2-fluoro-4-iodophenylamino)-6-methyl-5-oxo-3,5-dihydro-2H-oxazolo[3,2-a]pyridin-8-yl)cyclobutane-1-sulfonamide (0.3 g, 0.388 mmol) was reacted with 1M BCl3 (1.1 mL, 1.164 mmol) and DCM (10 mL) at 0° C. for 30 minutes to afford the crude product. Purification by column chromatography on silica gel (8% methanol in chloroform) afforded 60 mg of the product (26% yield).

reactant | 3-(1,3-Bis(benzyloxy)propan-2-yl)-N-(7-(2-fluoro-4-iodophenylamino)-6-methyl-5-oxo-3,5-dihydro-2H-oxazolo[3,2-a]pyridin-8-yl)cyclobutane-1-sulfonamide | 0.388 mmol, 0.3 g | C(C1=CC=CC=C1)OCC(COCC1=CC=CC=C1)C1CC(C1)S(=O)(=O)NC1=C2N(C(C(=C1NC1=C(C=C(C=C1)I)F)C)=O)CCO2 | C35H37FIN3O6S
reactant | BCl3 | 1.164 mmol, 1M, 1.1 mL | B(Cl)(Cl)Cl | BCl3
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-(1,3-dihydroxypropan-2-yl)-N-(7-(2-fluoro-4-iodophenylamino)-6-methyl-5-oxo-3,5-dihydro-2H-oxazolo[3,2-a]pyridin-8-yl)cyclobutane-1-sulfonamide | 60 mg, 26% yield | OCC(CO)C1CC(C1)S(=O)(=O)NC1=C2N(C(C(=C1NC1=C(C=C(C=C1)I)F)C)=O)CCO2 | C21H25FIN3O6S
